US05668170
Enhancement of Electrotransport Delivery of Positively Charged Tetracaine
The electrotransport of tetracaine HCl, in the form of an aqueous solution having a concentration of 100 mg/ml, was tested and found to behave similarly to that of metoclopramide HCl. The average mass flux obtained was 100 μg/cm2 hr, and there was a 1 to 2 hour time lag to reach steady state flux.

reactant | tetracaine HCl | CCCCNC=1C=CC(=CC1)C(=O)OCCN(C)C.Cl
reactant | metoclopramide HCl | CCN(CC)CCNC(=O)C=1C=C(C(=CC1OC)N)Cl.O.Cl
product | Tetracaine | CCCCNC=1C=CC(=CC1)C(=O)OCCN(C)C | C15H24N2O2
